US07507742B2
Cis-3-[(benzyloxy)methyl]cyclobutanol
To a solution of the cyclobutanone of Preparation 2 (1.166 g, 6.13 mmol) in tetrahydrofuran stirring at −70° C., was added dropwise a 1M solution of lithium tri-sec-butylborohydride in tetrahydrofuran (40 ml), maintaining the reaction temperature below −65° C. The reaction was allowed to warm to room temperature over 18 hours. The reaction mixture was quenched with a saturated aqueous solution of sodium hydrogen carbonate (25 ml) then cooled to 5° C. 30% Aqueous hydrogen peroxide (4 ml) was added dropwise, maintaining the reaction temperature below 10° C. The mixture was extracted from water into ethyl acetate (50 ml) and the combined organic phases washed with brine (30 ml), dried over magnesium sulphate, filtered and evaporated in vacuo. The crude material was purified by column chromatography over silica gel eluting with 25-50% ethyl acetate:pentane to yield a colourless oil (1.05 g, 5.5 mmol, 89%). 1H-NMR indicated that a 15:1 ratio of cis:trans isomers had been obtained.

reactant | cyclobutanone | C1(CCC1)=O | C4H6O
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | pentane | CCCCC | C5H12
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Cis-3-[(benzyloxy)methyl]cyclobutanol | 5.5 mmol, 1.05 g, 89% | C(C1=CC=CC=C1)OC[C@H]1C[C@H](C1)O | C12H16O2
